* INA241A2
*****************************************************************************
* (C) Copyright 2021 Texas Instruments Incorporated. All rights reserved.   
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
* Released by: Texas Instruments Inc.
* Part: INA241A2
* Date: 2022-09-29
* Model Type:  All-in-One
* Simulator: Cadence PSpice
* Simulator Version: 17.4
* Datasheet: SBOSA30A – Revised August 2022
*
* Model Version: A
*
*****************************************************************************	
* MACRO-MODEL SIMULATED PARAMETERS:
*****************************************************************************
* AC PARAMETERS (small signal)
********************************************
* CLOSED-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zout vs. Freq.)
* CLOSED-LOOP GAIN VS. FREQUENCY  WITH RL, CL EFFECTS (Acl vs. Freq.)
* COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR vs. Freq.)
    * DC CMRR set to 154 dB
* POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR vs. Freq.)
    * DC PSRR set to +2.82 uV/V (131dB)
* REFERENCE VOLTAGE REJECTION RATIO VS. FREQUENCY
    * DC RVRR set to -1.7 uV/V
* INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en vs. Freq.)
**********************
* DC PARAMETERS (all tested/measured using datasheet testing conditions)
**********************
* INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* INPUT OFFSET VOLTAGE at final test at room temperature (Vos = +9uV at 27°C, 48V VCM, 5V VS, 2.5V VREF)
* INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos vs. Temp) (MAX +0.15 uV/°C)
* INPUT BIAS CURRENT VS. INPUT COMMON-MODE VOLTAGE (Ib vs. Vcm)
* INPUT BIAS CURRENT VS. SUPPLY VOLTAGE (Ib vs. Vs)
* INPUT BIAS CURRENT VS. SENSE VOLTAGE (Ib vs. Vsense)
* INPUT RESISTANCE at REF1 and REF2 pins and REF input current
* GAIN ERROR (Eg) (+0.006% at 27°C)
* GAIN ERROR DRIFT (Eg vs. Temp)(MAX +1 ppm/°C)
* OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vout vs. Iout)
* SHORT-CIRCUIT OUTPUT CURRENT (Isc) (17 mA sourcing, 25 mA sinking)
* QUIESCENT CURRENT (Iq) 3.2 mA + Iout for all variants
* REFERENCE DIVIDER ACCURACY (+0.003% when V_REF2 > V_REF1)
**********************
* TRANSIENT PARAMETERS
**********************
* SLEW RATE (SR)
* OVERLOAD RECOVERY TIME (tor)
* ENHANCED PWM REJECTION CIRCUITRY IS NOT MODELED
******************************************************
.SUBCKT INA241A2 IN+ IN- VS OUT GND REF1 REF2
******************************************************
.MODEL R_NOISELESS RES (T_ABS=-273.15)
C_C10         GND N2770098  1E-15   
C_C11         N2770566 GND  1E-15   
C_C12         GND N2769834  1E-15   
C_C13         N2770300 GND  1E-15   
C_C14         GND N2769702  1E-15   
C_C15         N2770192 GND  1E-15   
C_C16         GND N2769670  1E-15   
C_C33         VS_B 0  1E-15   
C_C35         N2773492 GND  1E-15   
C_C36         VICM_2 GND  2E-5   
C_C37         VSENSE_2 GND  1E-6   
C_C38         VS_B2 0  1E-8   
C_C39         VBIAS GND  2E-5   
C_C7         N2771898 GND  1E-15   
C_C8         GND N2769254  1E-15   
C_C9         GND N2770506  1E-15   
C_CC         CLAMP GND  195E-9   
C_C_VIMON         GND VIMON  1E-9   
C_C_VIMON1         GND VIMON2  0.01E-9   
C_C_VOUT_S         GND VOUT_S  0.1E-9   
E_E24         N2774020 IN- CMR GND -0.5
E_E25         N2772362 VN CMR GND 0.5
E_E27         N2772376 N2772372 PSR GND 0.5
E_E28         N2774036 N2774030 PSR GND -0.5
E_E3         N2773488 GND OUT GND 1
E_E34         N2772372 N2772362 RVR GND -0.5
E_E35         N2774030 N2774020 RVR GND 0.5
G_G12         VGROSS GND CLAMP GND -1E-3
G_G15         CLAW_CLAMP GND N2774614 GND -1E-3
G_G16         CL_CLAMP GND CLAW_CLAMP GND -1E-3
G_G36         N2768236 0 VS 0 -1
G_G61         N2768672 GND GND IN- -1
G_G62         VICM GND IN+ N2768672 -0.5
G_G66         ACL GND CL_CLAMP GND -1
G_G67         VSENSE GND IN+ IN- -1
G_G79         VS GND VIMON2 GND 1E-3
G_G8         VS_CLP GND N2769254 GND -1E-3
G_G80         REF_B GND REF1 N2775244 -0.5
G_G81         N2775244 GND GND REF2 -1
G_G82         N2771914 VBIAS N2771898 N2773492 -2E-5
G_G83         VBIAS N2773918 N2773492 N2771898 2E-5
G_G9         GND_CLP GND N2770506 GND -1E-3
I_I_Q         VS GND DC 3.2E-3  
R_R107         N2768236 0 R_NOISELESS 1
R_R110         N2768236 VS_B R_NOISELESS 1E-3
R_R147         N2768672 GND R_NOISELESS 1
R_R148         VICM GND R_NOISELESS 1
R_R153         GND VCM_MIN R_NOISELESS 1E9
R_R154         VCM_MAX GND R_NOISELESS 1E9
R_R155         GND N2774840 R_NOISELESS 1
R_R156         N2773492 N2774840 R_NOISELESS 1E-3
R_R157         GND ACL R_NOISELESS 1
R_R158         VSENSE GND R_NOISELESS 1
R_R160         VS GND  1E8 TC=0,0 
R_R211         N2775244 GND R_NOISELESS 1
R_R212         REF_B GND R_NOISELESS 1
R_R213         ACL N2775074  50K TC=0,0 
R_R214         ACL N2775074  50.003K TC=0,0 
R_R215         REF2 REF_MID  50.00K TC=0,0 
R_R216         REF1 REF_MID  50.003K TC=0,0 
R_R217         VIMON2 VIMON R_NOISELESS 100
R_R218         VICM VICM_2 R_NOISELESS 1E-3
R_R219         VSENSE_2 VSENSE R_NOISELESS 1E-3
R_R220         VS_B VS_B2 R_NOISELESS 1E-3
R_R221         N2815210 VBIAS R_NOISELESS 1E-3
R_R27         GND N2771884 R_NOISELESS 1
R_R28         N2771898 N2771884 R_NOISELESS 1E-3
R_R29         N2769232 VS_B R_NOISELESS 1E3
R_R30         N2769254 N2769232 R_NOISELESS 1E-3
R_R31         VS_CLP GND R_NOISELESS 1E3
R_R32         N2770490 GND R_NOISELESS 1E3
R_R33         N2770506 N2770490 R_NOISELESS 1E-3
R_R34         GND_CLP GND R_NOISELESS 1E3
R_R35         GND VS_CLP R_NOISELESS 1E9
R_R36         N2770070 GND R_NOISELESS 1
R_R37         N2770098 N2770070 R_NOISELESS 1E-3
R_R38         N2770566 N2770552 R_NOISELESS 1E-3
R_R39         GND N2770552 R_NOISELESS 1
R_R40         GND GND_CLP R_NOISELESS 1E9
R_R41         GND N2768902 R_NOISELESS 1E9
R_R42         N2769806 GND R_NOISELESS 1
R_R43         N2769834 N2769806 R_NOISELESS 1E-3
R_R44         N2770300 N2770286 R_NOISELESS 1E-3
R_R45         GND N2770286 R_NOISELESS 1
R_R46         GND N2771060 R_NOISELESS 1E9
R_R49         GND N2768760 R_NOISELESS 1E9
R_R50         N2769674 GND R_NOISELESS 1
R_R51         N2769702 N2769674 R_NOISELESS 1E-3
R_R52         N2770192 N2770178 R_NOISELESS 1E-3
R_R53         GND N2770178 R_NOISELESS 1
R_R54         GND N2771020 R_NOISELESS 1E9
R_R55         N2769670 VGROSS R_NOISELESS 1E-3
R_R60         GND N2771934 R_NOISELESS 1E6
R_R61         GND CLAMP R_NOISELESS 1E6
R_R62         GND VGROSS R_NOISELESS 1E3
R_R65         GND CLAW_CLAMP R_NOISELESS 1E3
R_R66         GND CL_CLAMP R_NOISELESS 1E3
R_R81         GND N2773460 R_NOISELESS 1E9
R_R82         VIMON N2773460 R_NOISELESS 100
R_R83         GND N2773488 R_NOISELESS 1E9
R_R84         VOUT_S N2773488 R_NOISELESS 100
R_RBIAS         IN- IN+  6.4K TC=0,0 
R_RLN         N2773918 N2772422 R_NOISELESS 106K
R_RLP         N2771914 N2771920 R_NOISELESS 106K
V_VCM_MAX         VCM_MAX GND 120
V_VCM_MIN         VCM_MIN GND -15
V_V_GRN         N2771020 GND -29.5
V_V_GRP         N2768760 GND 27.1
V_V_ISCN         N2771060 GND -25
V_V_ISCP         N2768902 GND 17
X_AOL_1         N2771920 N2772422 GND N2771934 AOL_1_INA241A2 
X_AOL_2         N2771934 GND GND CLAMP AOL_2_INA241A2 PARAMS:  GAIN=1E-2 IPOS=1.56
+  INEG=-1.56
X_CLAWN         GND VIMON2 GND N2770490 CLAWN_INA241A2 
X_CLAWP         VIMON2 GND N2769232 VS_B CLAWP_INA241A2 
X_CLAW_AMP         VS_CLP GND_CLP VOUT_S GND N2770070 N2770552 CLAMP_AMP_LO_INA241A2 
X_CLAW_SRC         N2770098 N2770566 CLAW_CLAMP GND CLAW_SRC_INA241A2 PARAMS:  GAIN=1
+  IPOS=5.42E-2 INEG=-5.9E-2
X_CL_AMP         N2768902 N2771060 VIMON GND N2769806 N2770286 CLAMP_AMP_LO_INA241A2 
X_CL_SRC         N2769834 N2770300 CL_CLAMP GND CL_SRC_INA241A2 PARAMS:  GAIN=1
+  IPOS=1.08E-1 INEG=-1.18E-1
X_DC_REJ_SUB_CMR         VICM GND N2768096 GND DC_REJ_SUB_INA241A2 PARAMS:  DC_REJ=154
+  R=1
X_DC_REJ_SUB_PSR         VS_B GND N2768612 GND DC_REJ_SUB_INA241A2 PARAMS:  DC_REJ=131
+  R=1
X_GR_AMP         N2768760 N2771020 N2769670 GND N2769674 N2770178 CLAMP_AMP_HI_INA241A2 
X_GR_SRC         N2769702 N2770192 CLAMP GND GR_SRC_INA241A2 PARAMS:  GAIN=1 IPOS=3.12
+  INEG=-3.12
X_H3    OUT N2774040 N2773460 GND 08_COMPLETE_A2_H3_INA241A2 
X_P1_27         VGROSS GND N2773408 GND P1_INA241A2 PARAMS:  GAIN=1 FP=13E6 R=1E6
X_P1_28         N2773408 GND N2773414 GND P1_INA241A2 PARAMS:  GAIN=1 FP=13E6 R=1E7
X_P1_29         N2773414 GND N2773420 GND P1_INA241A2 PARAMS:  GAIN=1 FP=13E6 R=1E7
X_P1_30         N2773420 GND N2773426 GND P1_INA241A2 PARAMS:  GAIN=1 FP=14E6 R=1E8
X_P1_31         N2773426 GND N2774608 GND P1_INA241A2 PARAMS:  GAIN=1 FP=14E6 R=1E8
X_P1_32         N2774608 GND N2774614 GND P1_INA241A2 PARAMS:  GAIN=1 FP=14E6 R=1E8
X_PZ1_31         N2772278 GND N2772286 GND GND PZ1_INA241A2 PARAMS:  GAIN=1 FP=6K
+  FZ=35E3 R=1E4
X_PZ1_32         N2772286 N2786823 N2772292 GND GND PZ1_INA241A2 PARAMS:  GAIN=1 FP=6K
+  FZ=40K R=1E5
X_U108         REF_B GND N2775444 GND DC_REJ_SUB_INA241A2 PARAMS:  DC_REJ=180 R=1
X_U113         REF_MID N2771920 GAIN_RES_DRIFT_INA241A2 PARAMS:  G_RES=475.05K
+  DRIFT_RES_ROOM=1K RES_DRIFT=5E-4 POL=1
X_U117         IN+ GND VSENSE_2 GND IBP_SENSE_INA241A2 PARAMS:  RSENSE=33.33K
X_U118         IN- GND VSENSE_2 GND IBN_SENSE_INA241A2 PARAMS:  RSENSE=33.33K
X_U119         N2815210 GND VS_B GND VBIAS_GEN_INA241A2 
X_U120         N2775074 N2772422 GAIN_RES_DRIFT_INA241A2 PARAMS:  G_RES=475.05K
+  DRIFT_RES_ROOM=1K RES_DRIFT=5E-4 POL=1
X_U121         N2775444 GND RVR GND P1_INA241A2 PARAMS:  GAIN=1 FP=15E6 R=1E6
X_U123         VICM_2 VS_B2 GND IN+ GND IB_VCM_VS_INA241A2 PARAMS:  M_TR=14.264E-6
+  M_PRE=0.13E-6 M_POST=0.0035E-6 M_VTR_VS_START=-0.27 M_VTR_VS_END=-0.2428
+  C_VTR_VS_START=-6.96 C_VTR_VS_END=-3.745 M_INEG_VS=-1.1233E-6
+  C_INEG_VS=-0.157E-6 IPOS_IBCM=35E-6
X_U124         VICM_2 VS_B2 GND IN- GND IB_VCM_VS_INA241A2 PARAMS:  M_TR=14.264E-6
+  M_PRE=0.13E-6 M_POST=0.0035E-6 M_VTR_VS_START=-0.27 M_VTR_VS_END=-0.2428
+  C_VTR_VS_START=-6.96 C_VTR_VS_END=-3.745 M_INEG_VS=-1.1233E-6
+  C_INEG_VS=-0.157E-6 IPOS_IBCM=35E-6
X_U2         N2772292 GND N2772298 GND P1_INA241A2 PARAMS:  GAIN=1 FP=100E3 R=1E6
X_U3         N2772298 GND N2774282 GND GND PZ1_INA241A2 PARAMS:  GAIN=1 FP=930K FZ=2E6
+  R=1E7
X_VCM_CLAMPN         N2774036 GND N2774840 GND VCM_MAX VCM_MIN VCM_CLAMP_INA241A2 
X_VCM_CLAMPP         N2772376 GND N2771884 GND VCM_MAX VCM_MIN VCM_CLAMP_INA241A2 
X_VNOISE         N2772348 VN VNOISE_INA241A2 PARAMS:  NV=49
X_VOS_DRIFT         N2772348 IN+ VOS_DRIFT_INA241A2 PARAMS:  DC=12E-6 DRIFT=150E-9 POL=1
X_ZOUT_DC_SUB5         ACL N2774290 N2772278 N2774040 GND ZOUT_DC_SUB_INA241A2 PARAMS: 
+  ZOUT_DC=0.09 ZOUT_MAX=300
X_ZP1LIM5         N2774282 GND N2774290 GND GND ZP1LIM_INA241A2 PARAMS:  GAIN=1 FZ=2.2E6
+  FP=1E11 R=1E8 IPOS=1.02E3 INEG=-1.5E3
X_ZP1_1         N2768096 GND N2768102 GND GND ZP1_INA241A2 PARAMS:  GAIN=1 FP=15K FZ=46
+  R=1E6
X_ZP1_10         N2833207 GND N2834674 GND GND ZP1_INA241A2 PARAMS:  GAIN=1 FP=6E6
+  FZ=500K R=5E7
X_ZP1_11         N2834674 GND N2836381 GND GND ZP1_INA241A2 PARAMS:  GAIN=1 FP=10E6
+  FZ=500K R=7.5E7
X_ZP1_2         N2768102 GND N2827601 GND GND ZP1_INA241A2 PARAMS:  GAIN=1 FP=6E6 FZ=12K
+  R=1E6
X_ZP1_3         N2836381 GND CMR GND GND ZP1_INA241A2 PARAMS:  GAIN=1 FP=1E7 FZ=500K
+  R=1E8
X_ZP1_4         N2768618 GND PSR GND GND ZP1_INA241A2 PARAMS:  GAIN=1 FP=80E6 FZ=2.2K
+  R=1E8
X_ZP1_6         N2768612 GND N2768618 GND GND ZP1_INA241A2 PARAMS:  GAIN=1 FP=23K FZ=158
+  R=1E8
X_ZP1_9         N2827601 GND N2833207 GND GND ZP1_INA241A2 PARAMS:  GAIN=1 FP=6E6
+  FZ=460K R=1E7
.ENDS  INA241A2
*
.SUBCKT 08_COMPLETE_A2_H3_INA241A2 1 2 3 4  
H_H3         3 4 VH_H3 -1E3
VH_H3         1 2 0V
.ENDS  08_COMPLETE_A2_H3_INA241A2
*
.SUBCKT AOL_1_INA241A2 VC+ VC- IOUT+ IOUT-
+ PARAMS:
+ GAIN = 1E-4
+ IPOS = .5
+ INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_1_INA241A2
*
.SUBCKT AOL_2_INA241A2 VC+ VC- IOUT+ IOUT-
+ PARAMS:
+ GAIN = 1E-2
+ IPOS = 2.66E-02
+ INEG = -2.66E-02
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_2_INA241A2
*
.SUBCKT CLAMP_AMP_HI_INA241A2 VC+ VC- VIN COM VO+ VO-
.PARAM G = 10
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_HI_INA241A2
*
.SUBCKT CLAMP_AMP_LO_INA241A2 VC+ VC- VIN COM VO+ VO-
.PARAM G = 1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_LO_INA241A2
*
.SUBCKT CLAWN_INA241A2 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 5E-6)
+(0.03, 2E-5)
+(0.0644, 6.5E-5)
+(1.574, 2.28E-04)
+(11.234, 1.61E-03)
+(17.334, 2.54E-03)
+(21.184, 3.2E-03)
+(23.684, 3.7E-03)
+(24.894, 4E-03)
.ENDS  CLAWN_INA241A2
*
.SUBCKT CLAWP_INA241A2 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 2.0E-5)
+(0.27, 3.0E-05)
+(0.472, 1.0E-04)
+(1.98, 2.2E-04)
+(6.662, 1.2E-03)
+(10.92, 2.04E-03)
+(13.961, 2.71E-03)
+(16.001, 3.23E-03)
+(17.391, 3.66E-03)
+(18.261, 3.99E-03)
.ENDS  CLAWP_INA241A2
*
.SUBCKT CLAW_SRC_INA241A2 VC+ VC- IOUT+ IOUT-
+ PARAMS:
+ GAIN = 1
+ IPOS = 7E-2
+ INEG = -8.8E-2
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CLAW_SRC_INA241A2
*
.SUBCKT CL_SRC_INA241A2 VC+ VC- IOUT+ IOUT-
+ PARAMS:
+ GAIN = 1
+ IPOS = 1.4E-1
+ INEG = -1.76E-1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CL_SRC_INA241A2
*
.SUBCKT DC_REJ_SUB_INA241A2 VC+ VC- OUT+ OUT-
+ PARAMS:
+ DC_REJ = 120
+ R = 1
.MODEL R_NOISELESS RES (T_ABS=-273.15)
.PARAM GG1 = {PWR(10, (-(DC_REJ)/20))}
G1 OUT- OUT+ VC+ VC- {GG1}
R1 OUT+ OUT- R_NOISELESS  {R}
.ENDS  DC_REJ_SUB_INA241A2
*
.SUBCKT GAIN_RES_DRIFT_INA241A2 1 2
+ PARAMS:
+ G_RES = 20E3
+ DRIFT_RES_ROOM = 100
+ RES_DRIFT = 1E-6
+ POL = 1
.MODEL R_NOISELESS RES (T_ABS=-273.15)
.MODEL R_DRIFT RES (TC1={RES_DRIFT})
R1 1 3 R_NOISELESS {G_RES-DRIFT_RES_ROOM}
R2 2 3 R_DRIFT {DRIFT_RES_ROOM}
.ENDS  GAIN_RES_DRIFT_INA241A2
*
.SUBCKT GR_SRC_INA241A2 VC+ VC- IOUT+ IOUT-
+ PARAMS:
+ GAIN = 1
+ IPOS = 5.32E-2
+ INEG = -5.32E-2
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  GR_SRC_INA241A2
*
.SUBCKT IBN_SENSE_INA241A2 VINN GND IB+ IB-
+ PARAMS:
+ RSENSE = 23847
.MODEL R_NOISELESS RES (T_ABS=-273.15)
G1 VINN GND VALUE={LIMIT((V(GND,IB+))/RSENSE,0,4E-3)}
.ENDS  IBN_SENSE_INA241A2
*
.SUBCKT IBP_SENSE_INA241A2 VINP GND IB+ IB-
+ PARAMS:
+ RSENSE = 23847
.MODEL R_NOISELESS RES (T_ABS=-273.15)
G1 VINP GND VALUE={LIMIT((V(IB+, GND))/RSENSE, 0,4E-3)}
.ENDS  IBP_SENSE_INA241A2
*
.SUBCKT IB_VCM_VS_INA241A2 VCM VS IOUT- IOUT+ GND
+PARAMS:
+ M_TR = 14.264E-6
+ M_PRE = 0.13E-6
+ M_POST = 0.0035E-6
+ M_VTR_VS_START = -0.27
+ M_VTR_VS_END = -0.2428
+ C_VTR_VS_START = -6.96
+ C_VTR_VS_END = -3.745
+ M_INEG_VS = -1.1233E-6
+ C_INEG_VS = -0.157E-6
+ IPOS_IBCM = 35E-6
E1 VTR_START GND VALUE = {M_VTR_VS_START*V(VS,GND) + C_VTR_VS_START}
E2 VTR_END GND VALUE = {M_VTR_VS_END*V(VS,GND) + C_VTR_VS_END}
G1 IOUT+ IOUT- VALUE={LIMIT(M_TR*(V(VCM,GND)- V(VTR_START,GND)), V(VS,GND)*M_INEG_VS + C_INEG_VS, IPOS_IBCM)}
G2 IOUT+ IOUT- VALUE={IF( (V(VCM,GND)<(V(VTR_START,GND) -0.15)), M_PRE*(V(VCM,GND)-V(VTR_START,GND)),0)}
G3 IOUT+ IOUT- VALUE={IF( V(VCM,GND)>(V(VTR_END,GND)+0.11), M_POST*(V(VCM,GND)-V(VTR_END,GND)),0)}
.ENDS  IB_VCM_VS_INA241A2
*
.SUBCKT P1_INA241A2 VC+ VC- OUT+ OUT-
+ PARAMS: 
+ GAIN = 1
+ FP = 1
+ R = 1E6
.MODEL R_NOISELESS RES (T_ABS=-273.15)
.PARAM CC1 = {1/(6.2831853 * FP * R)}
.PARAM GG1 = {GAIN / R}
G1 OUT- OUT+ VC+ VC- {GG1}
R1 OUT+ OUT- R_NOISELESS {R}
C1 OUT+ OUT- {CC1}
.ENDS  P1_INA241A2
*
.SUBCKT PZ1_INA241A2 VC+ VC- OUT+ OUT- 1
+ PARAMS: 
+ GAIN = 1
+ FP = 1E3
+ FZ = 1E4
+ R = 1E6
.MODEL R_NOISELESS RES (T_ABS=-273.15)
.PARAM CC1 = {1/(6.2831853 * FZ * R)}
.PARAM RR1 = {(1/(6.2831853 * FP * CC1)) - R}
C1 2 1 {CC1}
G1 OUT- OUT+ 3 1 {GAIN}
R1 VC+ 3 R_NOISELESS {RR1}
R2 3 2 R_NOISELESS {R}
R3 OUT+ OUT- R_NOISELESS 1
.ENDS  PZ1_INA241A2
*
.SUBCKT VBIAS_GEN_INA241A2 VBIAS GND VS GND
E1 VBIAS GND VALUE={LIMIT(-0.3179*V(VS, GND)-7.6416,-14,-8.5)}
.ENDS  VBIAS_GEN_INA241A2
*
.SUBCKT VCM_CLAMP_INA241A2 VIN+ VIN- IOUT- IOUT+ VP+ VP-
.PARAM GAIN = 1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS  VCM_CLAMP_INA241A2
*
.SUBCKT VNOISE_INA241A2 1 2
+ PARAMS:
+ NV = 1E3
.PARAM RNV={1.184*PWR(NV,2)}
R4 5 0 {RNV}
R5 5 0 {RNV}
E3 1 2 5 0 10
.ENDS  VNOISE_INA241A2
*
.SUBCKT VOS_DRIFT_INA241A2 VOS+ VOS-
+ PARAMS:
+ DC = 20E-6
+ DRIFT = 1E-6
+ POL = 1
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS  VOS_DRIFT_INA241A2
*
.SUBCKT ZOUT_DC_SUB_INA241A2 INA INB OUTA OUTB COM
+ PARAMS:
+ ZOUT_DC = 1
+ ZOUT_MAX = 1E3
.MODEL R_NOISELESS RES (T_ABS=-273.15)
.PARAM BETA = 1
.PARAM RDUMMY = {10*ZOUT_MAX}
.PARAM RX = {100*ZOUT_MAX}
.PARAM G1 = {RX/(ZOUT_DC*BETA)}
G1 COM OUTA INA OUTB {G1}
R1 OUTA COM R_NOISELESS 1
RDUMMY OUTB COM R_NOISELESS {RDUMMY}
RX INB OUTB R_NOISELESS {RX}
.ENDS  ZOUT_DC_SUB_INA241A2
*
.SUBCKT ZP1_INA241A2 VC+ VC- OUT+ OUT- 1
+ PARAMS:
+ GAIN = 1
+ FZ = 1E3
+ FP = 1E4
+ R = 1E6
.MODEL R_NOISELESS RES (T_ABS=-273.15)
.PARAM GG1 = {GAIN * FP/FZ}
.PARAM CC1 = {1/(6.2831853 * FZ * R)}
.PARAM RR1 = {R/(FP/FZ - 1)}
C1 VC+ 2 {CC1}
G1 OUT- OUT+ 2 1 {GG1}
R1 VC+ 2 R_NOISELESS {R}
R2 2 1 R_NOISELESS {RR1}
R3 OUT+ OUT- R_NOISELESS 1
.ENDS  ZP1_INA241A2
*
.SUBCKT ZP1LIM_INA241A2 VC+ VC- OUT+ OUT- 1
+ PARAMS:
+ GAIN = 1
+ FZ = 1E3
+ FP = 1E4
+ R = 1E6
+ IPOS = 1.72E3
+ INEG = -2.9E3
.MODEL R_NOISELESS RES (T_ABS=-273.15)
.PARAM GG1 = {GAIN * FP/FZ}
.PARAM CC1 = {1/(6.2831853 * FZ * R)}
.PARAM RR1 = {R/(FP/FZ - 1)}
C1 VC+ 2 {CC1}
G1 OUT- OUT+ VALUE={LIMIT(GG1 * V(2, 1), INEG, IPOS)}
R1 VC+ 2 R_NOISELESS {R}
R2 2 1 R_NOISELESS {RR1}
R3 OUT+ OUT- R_NOISELESS 1
.ENDS  ZP1LIM_INA241A2
*